US06610707B1
N-[4-(3-[1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-N-methylamine
The title compound was prepared by a similar method to Example 13 from 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzaldehyde [see Preparation 22] and methylamine hydrochloride to afford N-[4-(3-[1l-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-N-methylamine as a white solid.

reactant | 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzaldehyde | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)COC2=CC=C(C=O)C=C2 | C22H21N5O5S
reactant | methylamine hydrochloride | Cl.CN
product | N-[4-(3-[1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzyl]-N-methylamine | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)COC2=CC=C(CNC)C=C2 | C23H26N6O4S
